US06242493B1
Step 1: 6-Bromo-2-difluoromethoxynaphthalene
Methyl chlorodifluoroacetate (5.3 mL) was added dropwise to 6-bromonaphthol (10.25 g; 45.9 mmol) and potassium carbonate (7.61g; 55.1 mmol) at 90 C in 160 mL of DMF for 6 h. Purification by gel silica chromatography (3% EtOAc in hexane) gave 4.80 g (38%) of the title compound.

reactant | Methyl chlorodifluoroacetate | 5.3 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | 6-bromonaphthol | 45.9 mmol, 10.25 g | BrC=1C=C2C=CC=C(C2=CC1)O | C10H7BrO
reactant | potassium carbonate | 55.1 mmol, 7.61g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-2-difluoromethoxynaphthalene | 4.80 g, 38% | BrC=1C=C2C=CC(=CC2=CC1)OC(F)F | C11H7BrF2O
